US09126998B2
rac-N-(2-Amino-2-methylpentyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide
77 mg (0.66 mmol) of rac-2-methylpentane-1,2-diamine were added to 200 mg (0.60 mmol) of 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid Example 21A, 203 mg (0.63 mmol) of TBTU and 0.27 ml (2.41 mmol) of 4-methylmorpholine in DMF (2.1 ml), and the reaction mixture was stirred at RT overnight. The mixture was diluted with water/TFA and purified by preparative RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). The product fraction was concentrated. Saturated aqueous sodium bicarbonate solution was added to the residue, and the mixture was extracted twice with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered off and concentrated. This gave 199 mg (76% of theory, purity 99%) of the target compound.

reactant | rac-2-methylpentane-1,2-diamine | 0.66 mmol, 77 mg | CC(CN)(CCC)N | C6H16N2
reactant | 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.60 mmol, 200 mg | FC1=C(COC=2C=3N(C=C(C2)C)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C17H14F2N2O3
reactant | TBTU | 0.63 mmol, 203 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 2.41 mmol, 0.27 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 2.1 ml | CN(C)C=O | C3H7NO
solvent | water TFA | O.C(=O)(C(F)(F)F)O
product | rac-N-(2-Amino-2-methylpentyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C)(CCC)C | C23H28F2N4O2
